US05095014
3-(2-Chloro-6-methylphenoxy)-N,N-dimethyl-1-azetidinecarboxamide
A stirred solution of 3.9 g (0.015 mole) of 3-(2-chloro-6-methylphenoxy)-1-azetidinecarbonyl chloride in 20 mL of tetrahydrofuran was treated all at once with 5.1 mL (0.045 mole) of 40% aqueous dimethylamine. After stirring for 72 h the raction mixture was diluted with 200 mL of water and the oil which separated was extracted into methylene chloride (3×30 mL). The combined extracts were dried by filtering through Whatman PS paper and concentrated in vacuo (3.6 g). The crude oil solidified when cooled in a dry ice/acetone bath and was recrystallized from ethyl ether in a dry ice-acetone bath yielding, after filtering cold, 2.6 g (64.5%) of coarse white crystals, mp 46°-47° C.

reactant | 3-(2-chloro-6-methylphenoxy)-1-azetidinecarbonyl chloride | 0.015 mole, 3.9 g | ClC1=C(OC2CN(C2)C(=O)Cl)C(=CC=C1)C | C11H11Cl2NO2
reactant | dimethylamine | 0.045 mole, 5.1 mL | CNC | C2H7N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | 3-(2-Chloro-6-methylphenoxy)-N,N-dimethyl-1-azetidinecarboxamide | ClC1=C(OC2CN(C2)C(=O)N(C)C)C(=CC=C1)C | C13H17ClN2O2
